.SUBCKT IRGBC40U 71 72 74
* TERMINALS: C G E
* 600 Volt 40 Amp 6.04NS N-Channel IGBT 06-13-1992
Q1 83 81 85 QOUT
M1 81 82 83 83 MFIN L=1U W=1U
DSD 83 81 DO
DBE 85 81 DE
RC 85 71 21.1M
RE 83 73 2.11M
RG 72 82 25.6
CGE 82 83 1.42N
CGC 82 71 1P
EGD 91 0 82 81 1
VFB 93 0 0
FFB 82 81 VFB 1
CGD 92 93 1.41N
R1 92 0 1
D1 91 92 DLIM
DHV 94 93 DR
R2 91 94 1
D2 94 0 DLIM
DLV 94 95 DR 13
RLV 95 0 1
ESD 96 93 POLY(1) 83 81 19 1
MLV 95 96 93 93 SW
LE 73 74 7.5N
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=377F NF=1.2 BF=5.1 CJE=3.48N TF=24.3N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=36.1M ETA=2M VTO=5.2 KP=2.12)
.MODEL DR D (IS=37.7F CJO=100P VJ=1 M=.82)
.MODEL DO D (IS=37.7F BV=600 CJO=2.07N VJ=1 M=.7)
.MODEL DE D (IS=37.7F BV=14.3 N=2)
.MODEL DLIM D (IS=100N)
.ENDS
